US05955636
Process (ii): A process in which isobutene, acetone and formaldehyde are allowed to react under conditions of a high temperature and a high pressure to give 6-methyl -6-hepten-2-one (see, e.g., German Patents No. 12 59 876 and No. 12 68 135 and U.S. Pat. No. 3,574,773).

reactant | isobutene | C=C(C)C | C4H8
reactant | formaldehyde | C=O | CH2O
reactant | acetone | CC(=O)C | C3H6O
product | 6-methyl -6-hepten-2-one | CC(CCCC(C)=O)=C | C8H14O
